US07507756B2
Preparation of (3-Fluoro-phenyl)-[3-methyl-2-(1-methyl-piperidin-4-ylsulfanyl)-3H-imidazol-4-yl]-methanol
4-{5-[(3-Fluoro-phenyl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-1-methyl-1H-imidazol-2-ylsulfanyl}-1-methyl-piperidine. To a 0° C. solution of 1-methyl-piperidine-thiol (1.5 equivalents) in THF (0.2 M) is added NaH (60% dispersion in oil, 1.5 equivalents). After 30 min, 5-[(3-fluoro-phenyl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-2-chloro-1-methyl-1H-imidazole (1 equivalent) in THF (1 M) is added dropwise. The mixture is heated at reflux until HPLC analysis shows consumption of the starting material. The reaction mixture is cooled to rt, quenched with satd. aq. NH4Cl, and extracted with EtOAc (2×). The combined organic extracts are washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude material is purified by HPLC or flash column chromatography to provide the desired product. Step C. (3-Fluoro-phenyl)-[3-methyl-2-(1-methyl-piperidin-4-ylsulfanyl)-3H-imidazol-4-yl]-methanol. A solution of 4-{5-[(3-fluoro-phenyl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-1-methyl-1H-imidazol-2-ylsulfanyl}-1-methyl-piperidine (1 equiv.) in THF (0.2 M) is treated with tetrabutylammonium fluoride (1.2 equiv.). When the reaction is complete, the solution is diluted with satd. aq. NaHCO3 and extracted with EtOAc. The organic layer is dried over anhydrous Na2SO4. The crude material is purified by chromatography or recrystallization. This material can then be oxidized to form the corresponding sulfoxide (A3 is S(O)), or sulfone (A3 is S(O2)) as described in Example XVI, Scheme XI.

reactant | 4-{5-[(3-Fluoro-phenyl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-1-methyl-1H-imidazol-2-ylsulfanyl}-1-methyl-piperidine | FC=1C=C(C=CC1)C(C1=CN=C(N1C)SC1CCN(CC1)C)O[Si](C)(C)C(C)(C)C | C23H36FN3OSSi
reactant | NaH | 1.5 equivalents | [H-].[Na+]
reactant | 5-[(3-fluoro-phenyl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-2-chloro-1-methyl-1H-imidazole | 1 equivalent | FC=1C=C(C=CC1)C(C1=CN=C(N1C)Cl)O[Si](C)(C)C(C)(C)C | C17H24ClFN2OSi
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | (3-Fluoro-phenyl)-[3-methyl-2-(1-methyl-piperidin-4-ylsulfanyl)-3H-imidazol-4-yl]-methanol | FC=1C=C(C=CC1)C(O)C=1N(C(=NC1)SC1CCN(CC1)C)C | C17H22FN3OS
